US04948810
2.18 g of sodium 4-(2-benzenesulfonylaminoethyl)-2-nitrophenoxyacetate are dissolved in 50 ml of 80% methanol, and 0.44 g of 10% palladium-carbon is added thereto. After the mixture is subjected to catalytic hydrogenation for 3 hours at room temperature under atmospheric pressure, the catalyst is filtered off. The filtrate is condensed to dryness, and the residue is recrystallized from a mixture of isopropylether and water. 1.94 g of sodium 4-(2-benzenesulfonylaminoethyl)-2-aminophenoxyacetate are obtained as pale yellow scales.

reactant | sodium 4-(2-benzenesulfonylaminoethyl)-2-nitrophenoxyacetate | 2.18 g | C1(=CC=CC=C1)S(=O)(=O)NCCC1=CC(=C(OCC(=O)[O-])C=C1)[N+](=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.44 g | [C].[Pd]
product | sodium 4-(2-benzenesulfonylaminoethyl)-2-aminophenoxyacetate | 1.94 g | C1(=CC=CC=C1)S(=O)(=O)NCCC1=CC(=C(OCC(=O)[O-])C=C1)N.[Na+] | InChI=1S/C16H18N2O5S.Na/c17-14-10-12(6-7-15(14)23-11-16(19)20)8-9-18-24(21,22)13-4-2-1-3-5-13;/h1-7,10,18H,8-9,11,17H2,(H,19,20);/q;+1/p-1
